US07417028B2
4. Ethyl 4-chloro-2-o-tolylpyrimidine-5-carboxylate
A solution of 4.00 g of ethyl 4-hydroxy-2-o-tolylpyrimidine-5-carboxylate (15.5 mmol) in 11.6 mL of phosphorous oxychloride (124 mmol) was heated to reflux (calcium chloride filled tube as protection from the outside atmosphere). After 3 h, the excess POCl3 was removed by distillation (˜20 Torr, 90-100° C. oil bath). The residual red oil on cooling solidified. The solids were pulverized and covered with 100 mL of EtOAc. The slurry was cooled to −5° C. and agitated vigorously for 10 min with 25 mL of a potassium carbonate solution (2 M, 50 mmol). The resulting organic phase was separated, dried (MgSO4), filtered and evaporated to give, after triturating in hexanes, the title compound as a light orange solid, 3.58 g, 84% yield.

reactant | ethyl 4-hydroxy-2-o-tolylpyrimidine-5-carboxylate | 15.5 mmol, 4.00 g | OC1=NC(=NC=C1C(=O)OCC)C1=C(C=CC=C1)C | C14H14N2O3
reactant | phosphorous oxychloride | 124 mmol, 11.6 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | potassium carbonate | 50 mmol, 2 M, 25 mL | C([O-])([O-])=O.[K+].[K+]
product | Ethyl 4-chloro-2-o-tolylpyrimidine-5-carboxylate | 84% yield | ClC1=NC(=NC=C1C(=O)OCC)C1=C(C=CC=C1)C | C14H13ClN2O2
